US05508458
Preparation of Ligand Precursor (1R, 2R)-N-Picolinyl-1,2-Diphenylethylenediamine
A solution of (1R,2R)-1,2-diphenylethylenediamine (1.16 g, 4.74 mmol), picolinic acid (596 mg, 4.79 mmol, 1.01 eq.), N,N-dimethyl-4-aminopyridine (100 mg, 0.82 mmol, 0.17 eq.) and 1,3-dicyclohexycarbodiimide (1.07 g, 5.2 mmol, 1.1 eq.) in dichloromethane (40 ml) was stirred at room temperature under N2 for 18 hours. The reaction mixture was filtered and washed with water. Column chromatography on silica gel using EtOAc/CH2Cl2 (4:1) afforded 1.06 g of white solids as title compound (71% yield). NMR and GCMS confirmed the structure.

reactant | (1R,2R)-1,2-diphenylethylenediamine | 4.74 mmol, 1.16 g | C1(=CC=CC=C1)[C@H]([C@H](N)C1=CC=CC=C1)N | C14H16N2
reactant | picolinic acid | 4.79 mmol, 596 mg, 1.01 eq. | N1=C(C=CC=C1)C(=O)O | C6H5NO2
catalyst | N,N-dimethyl-4-aminopyridine | 0.82 mmol, 100 mg, 0.17 eq. | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (1R, 2R)-N-Picolinyl-1,2-Diphenylethylenediamine | 71% yield | N1=C(C=CC=C1)CN[C@@H]([C@H](N)C1=CC=CC=C1)C1=CC=CC=C1 | C20H21N3
